US07964608B2
4-Chloro-8-methyl-quinoline-3-carboxylic acid ethyl ester (125 mg, 0.5 mmol) was treated with cyclopentylamine following general procedure B to afford 4-Cyclopentylamino-8-methyl-quinoline-3-carboxylic acid ethyl ester (120 mg). Thus obtained amino-ester was hydrolyzed to the corresponding acid using general procedure D and then transformed into the corresponding ethylamide (90 mg) following general procedure E.

reactant | 4-Chloro-8-methyl-quinoline-3-carboxylic acid ethyl ester | 0.5 mmol, 125 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1Cl)C | C13H12ClNO2
reactant | cyclopentylamine | C1(CCCC1)N | C5H11N
product | 4-Cyclopentylamino-8-methyl-quinoline-3-carboxylic acid ethyl ester | 120 mg | C(C)OC(=O)C=1C=NC2=C(C=CC=C2C1NC1CCCC1)C | C18H22N2O2
